US06821967B2
9-{4-[4-(1-benzyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 10 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 1-benzyl-2-(piperazin-1-yl)-1H-benzimidazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 1-benzyl-2-(piperazin-1-yl)-1H-benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)N2CCNCC2 | C18H20N4
product | 9-{4-[4-(1-benzyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=C(N1CC1=CC=CC=C1)C=CC=C2)(F)F | C38H38F3N5O
